### PR TITLE
[Merged by Bors] - feat: lemmas about Smith normal form and trace of restriction

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Trace.lean [hunk 1]
```diff
@@ -10,6 +10,7 @@ import Mathlib.LinearAlgebra.TensorProductBasis
 import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
 import Mathlib.LinearAlgebra.FreeModule.Finite.Rank
 import Mathlib.LinearAlgebra.Projection
+import Mathlib.LinearAlgebra.FreeModule.PID
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Trace.lean:13]: I'm a bit skeptical about this extra import: it feels like we're bringing in quite a bit of theory that would not be needed to simply define the trace. What do you think of putting your additions in a new file?

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 2]
```diff
@@ -440,6 +441,65 @@ structure Basis.SmithNormalForm (N : Submodule R M) (ι : Type*) (n : ℕ) where
...
+  rw [LinearMap.smul_apply, LinearMap.coe_comp, Submodule.coeSubtype, Function.comp_apply,
+    coord_apply, coord_apply, snf.repr_apply_embedding_eq_repr_smul m, map_smul, Finsupp.coe_smul,
+    Pi.smul_apply]
+
+/-- Given a Smith-normal-form pair of bases for `N ⊆ M`, and a linear endomorphism `f` of `M`
+that preserves `N`, the diagonal of the matrix of the restriction `f` to `N` does not depend on
+which of the two bases for `N` is used. -/
+@[simp]
+lemma toMatrix_restrict_eq_toMatrix [Fintype ι] [DecidableEq ι]
+    (f : M →ₗ[R] M) (hf : ∀ x, f x ∈ N) (hf' : ∀ x ∈ N, f x ∈ N := fun x _ ↦ hf x) {i : Fin n} :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:492]: Is using `hf'` as well as `hf` intended to help the reader? Or is there a technical reason? (Also below.)

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 3]
```diff
@@ -440,6 +441,65 @@ structure Basis.SmithNormalForm (N : Submodule R M) (ι : Type*) (n : ℕ) where
...
+
+lemma repr_eq_zero_of_nmem_range {i : ι} (hi : i ∉ Set.range snf.f) :
+    snf.bM.repr m i = 0 := by
+  obtain ⟨m, hm⟩ := m
+  obtain ⟨c, rfl⟩ := snf.bN.mem_submodule_iff.mp hm
+  replace hi : ∀ j, snf.f j ≠ i := by simpa using hi
+  simp [Finsupp.single_apply, hi, snf.snf]
+
+@[simp] lemma repr_comp_embedding_eq_smul :
+    snf.bM.repr m ∘ snf.f = (snf.bN.repr m : Fin n → R) • snf.a := by
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:456]: I'm surprised that this takes so much work, since we already have the field `snf : ∀ (i : Fin n), ↑(↑bN i) = a i • ↑bM (↑f i)`. Maybe there's some general theorem about bases waiting to be extracted? (I can try doing so tomorrow.)

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 4]
```diff
@@ -440,6 +441,65 @@ structure Basis.SmithNormalForm (N : Submodule R M) (ι : Type*) (n : ℕ) where
...
+  simp_rw [snf.snf, map_smul, repr_self, Finsupp.smul_single, smul_eq_mul, mul_one,
+    Function.comp_apply, Finsupp.sum_apply, Finsupp.single_apply, EmbeddingLike.apply_eq_iff_eq,
+    Finsupp.sum_ite_eq', Finsupp.mem_support_iff, ite_not, ite_eq_right_iff]
+  exact fun a ↦ (mul_eq_zero_of_left a _).symm
+
+@[simp] lemma repr_apply_embedding_eq_repr_smul {i : Fin n} :
+    snf.bM.repr m (snf.f i) = snf.bN.repr (snf.a i • m) i := by
+  change (snf.bM.repr m ∘ snf.f) i = _
+  rw [repr_comp_embedding_eq_smul, Pi.smul_apply', smul_eq_mul, mul_comm _ (snf.a i), map_smul,
+    Finsupp.coe_smul, Pi.smul_apply, smul_eq_mul]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:474]: I would suggest to put this result before `repr_comp_embedding_eq_smul`, so that the proof of `repr_comp_embedding_eq_smul` can look something like `by ext; simp [repr_apply_embedding_eq_repr_smul, mul_comm]` (hopefully!)

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 5]
```diff
@@ -440,6 +441,65 @@ structure Basis.SmithNormalForm (N : Submodule R M) (ι : Type*) (n : ℕ) where
...
+
+lemma le_ker_coord_of_nmem_range {i : ι} (hi : i ∉ Set.range snf.f) :
+    N ≤ LinearMap.ker (snf.bM.coord i) :=
+  fun m hm ↦ snf.repr_eq_zero_of_nmem_range ⟨m, hm⟩ hi
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:478]: This lemma can be moved next to `repr_eq_zero_of_nmem_range` since it is a direct corollary; that avoids the interruption by `repr_comp_embedding`.

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 6]
```diff
@@ -440,6 +441,65 @@ structure Basis.SmithNormalForm (N : Submodule R M) (ι : Type*) (n : ℕ) where
...
+
+@[simp] lemma coord_apply_embedding_eq_smul_coord {i : Fin n} :
+    snf.bM.coord (snf.f i) ∘ₗ N.subtype = snf.a i • snf.bN.coord i := by
+  ext m
+  rw [LinearMap.smul_apply, LinearMap.coe_comp, Submodule.coeSubtype, Function.comp_apply,
+    coord_apply, coord_apply, snf.repr_apply_embedding_eq_repr_smul m, map_smul, Finsupp.coe_smul,
+    Pi.smul_apply]
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:485]: It looks like you use only `simp` lemmas here. Can this just be:
```suggestion
  simp
```

File: Mathlib/LinearAlgebra/Trace.lean [hunk 7]
```diff
@@ -307,6 +308,23 @@ theorem IsProj.trace {p : Submodule R M} {f : M →ₗ[R] M} (h : IsProj p f) [M
...
+  let ι := Module.Free.ChooseBasisIndex R M
+  obtain ⟨n, snf : Basis.SmithNormalForm p ι n⟩ := p.smithNormalForm (Module.Free.chooseBasis R M)
+  rw [trace_eq_matrix_trace R snf.bM, trace_eq_matrix_trace R snf.bN]
+  set A : Matrix (Fin n) (Fin n) R := toMatrix snf.bN snf.bN (f.restrict hf')
+  set B : Matrix ι ι R := toMatrix snf.bM snf.bM f
+  have aux : ∀ i, B i i ≠ 0 → i ∈ Set.range snf.f := fun i hi ↦ by
+    contrapose! hi; exact snf.repr_eq_zero_of_nmem_range ⟨_, (hf _)⟩ hi
+  change ∑ i, A i i = ∑ i, B i i
+  rw [← Finset.sum_filter_of_ne (p := fun j ↦ j ∈ Set.range snf.f) (by simpa using aux)]
+  simp
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Trace.lean:326]: I like how this proof explains itself!

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean:485]: Sadly no; I too would like if this could be just `simp`.

The first issue is minor: we need to make sure `smul_eq_mul` and `Algebra.id.smul_eq_mul` don't fire (or else we need to rethink our simp set elsewhere). However `simp [-smul_eq_mul, -Algebra.id.smul_eq_mul]` still fails because `simp` won't fire `Pi.smul_apply`. I don't know why!

For emphasis: even replacing the `rw` with `simp only`, everything fires except `Pi.smul_apply`.

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean:492]: The reason for `hf'` here (and below) is that I need this hypothesis in the lemma statement since this is what is demanded by `LinearMap.restrict`.

However for the lemma to be true we need the stronger hypothesis `hf` so I have made `hf'` an `optParam` and the user can ignore it. The alternative would be to inline the proof appearing in `hf'` into the lemma statement but I think this would make for a slightly inferior lemma statement since what I have is true for any `Prop` of this type so I think this lemma should behave better in rewrites, for example.

File: Mathlib/LinearAlgebra/Trace.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Trace.lean:13]: I had the same concern but I couldn't quite convince myself that such a file had a future beyond this little lemma.

However, I'm really on the fence: if you think a new file is better, I'll happily take that approach.

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean:456]: I don't see a result to extract but of course it would be great if you find one!

Also this is only a 12-line proof and there is some genuine content here.

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean]: Got it to work at the cost of having to feed in `Pi.smul_apply _` to `simp`.

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean:488]: For emphasis: `hf` is stronger because it quantifies over all of `M` whereas `hf'` only quantifies over `N`.

File: Mathlib/LinearAlgebra/Trace.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/Trace.lean:13]: I agree the tradeoff is not obviously on either the splitter or the merger side. In this case, splitting files is going to be cheaper to undo (move the imports and declarations into one file) compared to merging (where you'd have to determine per declaration which file would be most appropriate), so I'd advocate splitting when in doubt.

This is actually something I learned from Linus Torvalds: if a choice is unclear, go for the one that is easiest to revert :)

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Trace.lean]: OK I've split it out!

File: Mathlib/LinearAlgebra/FreeModule/PID.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean]: I still think there is something to be extracted here, but about an hour of trying didn't give me anything sensible. So it's probably not worth trying further right now.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

**Comment by ocfnash** [comment]
bors merge
